US07943651B2
Intermediate 21: 3-(4-Amino-6-methyl-1H-indazol-1-yl)benzoic acid
A suspension of 3-(4-bromo-6-methyl-1H-indazol-1-yl)benzoic acid (1450.5 g, 4.38 mol) and copper (I) iodide (42.47 g, 0.22 mol, 5 mol %) in aqueous ammonia (0.88 sg, 13.5 L) was heated in a sealed pressure vessel until a pressure of 7 Bar±0.3 Bar was generated (contents temperature ˜78° C.). Stirring was continued for a period of ca. 2 days. The reaction mixture was cooled to 20° C. and then charged in to a Controlled Lab Reactor fitted with a 5M HCl scrubber. The solution was heated at reflux to remove excess ammonia by gradually raising the contents temperature to >90° C.—end point pH 7.87. The reaction mixture was then cooled to 60±3° C. and acetic acid (725 mL, 12.7 mol) was added slowly to form a precipitate—end point pH=5.68. The batch was cooled to 5±3° C. and stirred for 825 minutes. The slurry was filtered and washed with water (3×4.5 L). The solid was dried in vacuo at 50° C. to afford the title compound (1112.3 g).

reactant | 3-(4-bromo-6-methyl-1H-indazol-1-yl)benzoic acid | 4.38 mol, 1450.5 g | BrC1=C2C=NN(C2=CC(=C1)C)C=1C=C(C(=O)O)C=CC1 | C15H11BrN2O2
reactant | HCl | 5M | Cl | ClH
reactant | acetic acid | 12.7 mol, 725 mL | C(C)(=O)O | C2H4O2
reactant | ammonia | 13.5 L | N | H3N
catalyst | copper (I) iodide | 0.22 mol, 42.47 g | [Cu]I
product | 3-(4-Amino-6-methyl-1H-indazol-1-yl)benzoic acid | 1112.3 g | NC1=C2C=NN(C2=CC(=C1)C)C=1C=C(C(=O)O)C=CC1 | C15H13N3O2
